Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
EGD w/clipping and cautery ___

 
History of Present Illness:
___ male with remote hx ITP, remote hx of heavy ETOH use, and 
recently ASA increased to daily who presents with 2 episodes of 
melena. 

Patient had 2 episodes of black tarry stools ___ while in 
___ on vacation. Boarded flight feeling "unwell" and 
made it back to home in ___; felt lightheaded starting to climb 
stairs with luggage and had to sit down and rest; felt better 
lying down. No fall, no LOC, no head strike. In this setting, he 
presented to ___ ED. 

In the ED, initial vitals: 78 127/70 16 100% RA 

His H/H was 11.3/33.2, he had an EKG that did not show signs of 
ischemia. His rectal exam was guaiac positive. He was started on 
pantoprazole IV bolus 80 mg and drip at 8 mg/hr. Also 500 cc IV 
NS.

On arrival to the MICU,  98 149/74 94 31 99% RA. Patient was 
asymptomatic, corroborated history above. He denies chest pain, 
SOB, headache, nausea, vomiting, leg swelling. He recently 
started taking 81mg ASA daily 2 weeks ago. No other NSAID use. 
Remote history of alcohol use per pt.
 
Past Medical History:
Idiopathic thrombocytopenic purpura 
Impaired fasting glucose 
Carotid stenosis 
Meibomitis 
Congenital anomaly of optic disc 
PVD (posterior vitreous detachment) 
Pseudophakia 
Cataract, secondary 
Progressive high myopia 
Choroidal nevus 
Mild cognitive impairment 
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
=========================
Vitals: 98 127/61 71 21 98% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, no sublingual 
icterus
NECK: supple, JVP not elevated, no LAD
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, distended with tympany on percussion 
diffusely, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly, neg fluid wave
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no jaundice, spider angioma, or telangiectasia 
NEURO:  CN ___ intact, no asterixis, ___ strength bilat, normal 
sensation

DISCHARGE EXAM
==============
Vitals: 98.2 102/41 69 16 99 RA 
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNs2-12 intact, motor function/sensation grossly normal  

 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 03:30PM BLOOD WBC-8.0 RBC-3.60* Hgb-11.3* Hct-33.2* 
MCV-92 MCH-31.4 MCHC-34.0 RDW-13.0 RDWSD-43.6 Plt ___
___ 03:30PM BLOOD Neuts-76.7* Lymphs-16.6* Monos-4.8* 
Eos-0.8* Baso-0.6 Im ___ AbsNeut-6.12* AbsLymp-1.32 
AbsMono-0.38 AbsEos-0.06 AbsBaso-0.05
___ 03:30PM BLOOD Glucose-104* UreaN-37* Creat-0.7 Na-136 
K-4.6 Cl-103 HCO3-26 AnGap-12
___ 03:30PM BLOOD Albumin-4.3
___ 03:30PM BLOOD ALT-36 AST-23 AlkPhos-52 TotBili-0.6
___ 03:57PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 03:57PM URINE RBC-1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

DISCHARGE LABS
==============
___ 03:30PM BLOOD WBC-6.5 RBC-2.96* Hgb-9.6* Hct-26.9* 
MCV-91 MCH-32.4* MCHC-35.7 RDW-13.2 RDWSD-43.0 Plt ___
___ 06:30AM BLOOD ___ PTT-27.4 ___
___ 06:30AM BLOOD Glucose-99 UreaN-16 Creat-0.9 Na-141 
K-3.7 Cl-105 HCO3-27 AnGap-13
___ 06:30AM BLOOD Calcium-8.5 Phos-3.0 Mg-2.2

IMAGING/MICRO
=============
EGD (___)
Impression: Erosions in the whole stomach
Ulcer in the antrum (endoclip, thermal therapy)
Otherwise normal EGD to third part of the duodenum 

Recommendations: GI consult service to discuss with inpatient 
primary team.
Recommend checking stool Hpylori antigen.
Repeat EGD in ___ weeks
Recommend PPI 40mg twice daily until repeat EGD
Nonbleeding adherent clot: risk of recurrent bleeding with 
endoscopic hemostasis <5%. 

___ 3:30 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      EQUIVOCAL BY EIA. 
           (Reference Range-Negative). 
      NOTE: Equivocal serologic test findings may be resolved 
through use
      of the alternative, H. pylori stool antigen test. 

 
Brief Hospital Course:
Mr ___ is a ___ w/remote hx of ITP, remote hx of heavy 
ETOH use, and recently increased ASA to daily who p/w 2 episodes 
of melena, Hb 11.3 on admission, decreased to 9.4 in 12 hrs. Was 
briefly in MICU for monitoring, didn't require any pRBC 
transfusions. EGD showed antral ulcer, s/p clip/cautery, H&H 
remained stable over admission since EGD, DC Hb 9.6/26.9, and 
was HDS as well. Transitioned from IV to PO PPI BID. 

#GI Bleed: On admission, 2 episodes of melena with dizziness, 
H/H was 11.3/33 down from 14.5/43 in ___. Hx suggestive of 
UGIB, no hemetemsis. Etiology was unclear. Remote history of 
alcohol abuse but LFTs were normal. Risk factors included ASA 
(though low dose) and donepezil (which can increase gastric acid 
secretion), but was without epigastric pain suggestive of 
gastritis or PUD. He went for EGD on ___ that showed a 7 mm 
ulcer in the antrum that was subsequently cauterized and 
clipped. Melena stopped and the patient remained HD stable. Per 
GI, he will have repeat EGD in ___ weeks and should continue 
high dose bid PPI until that time. Serum H Pylori was negative. 
Tolerated diet before DC.

# ETOH use: Hx relatively unimpressive. LFTs normal and no signs 
of cirrhosis. Thiamine/Folate continued. 

# Thrombocytopenia: Remote hx of ITP. Platelets were stable over 
admission.

TRANSITIONAL ISSUES
===================
-Pt's H&H was 9.6/26.9 on DC, will need repeat CBC in ___ weeks 
with PCP
-___ started on pantoprazole 40mg BID, will need to be continued 
until at least repeat EGD in ___ weeks
-Pt had H Pylori serum Ab pending at ___ (was unable to get stool 
Ag as w/o BMs over admission), PCP needs to ___ result. GI 
recommends PCP initiate ___ treatment if returns 
positive
-GIB thought ___ ASA use (primary prevention), which was held 
over admission, recommend not restarting until at least after 
repeat EGD and with extreme caution even if repeat EGD improved

#Code: presumed full 
#Communication: Wife ___ ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Sildenafil 20 mg PO DAILY:PRN intercourse 
2. Pravastatin 20 mg PO QPM 
3. Donepezil 10 mg PO QHS 
4. melatonin 5 mg oral QHS 
5. BuPROPion XL (Once Daily) 300 mg PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. urea 40 % topical 2X/WEEK 
9. Ascorbic Acid ___ mg PO DAILY 
10. Zinc Sulfate 220 mg PO DAILY 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Donepezil 10 mg PO QAM  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  melatonin 5 mg oral QHS  
7.  Pravastatin 20 mg PO QPM  
8.  Sildenafil 20 mg PO DAILY:PRN intercourse  
9.  urea 40 % topical 2X/WEEK  
10.  Vitamin D ___ UNIT PO DAILY  
11.  Zinc Sulfate 220 mg PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Antral ulcer/GIB

SECONDARY
=========
Mild cognitive impairment

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ after you were found 
to have bloody stools. We checked your blood counts in the ED 
which were lower than before. You briefly went to the ICU for 
close monitoring and then with stomach doctors for ___, 
where they found an ulcer in your stomach that they filled. You 
have done well since your endoscopy and haven't needed any 
blood. We think the ulcer was from the aspirin that you were 
taking, please stop taking this until you follow up with your 
stomach doctors. You were also started on pantoprazole 40mg 
twice a day to stop future bleeds. You will need a repeat 
endoscopy in ___ weeks, which the stomach doctors are arranging 
for you. You will also need your blood counts checked in the 
next ___ weeks to ensure that they are stable.

It was a pleasure taking care of you!

Your ___ medical team
 
Followup Instructions:
___